US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and cyclopentanol to give (1-Cyclopentyloxy-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 369(MH+).

reactant | (1-chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=C(C=C12)OC)OC)NC1=NNC(=C1)C | C15H15ClN4O2
reactant | cyclopentanol | C1(CCCC1)O | C5H10O
product | (1-Cyclopentyloxy-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C1(CCCC1)OC1=NC(=CC2=CC(=C(C=C12)OC)OC)NC1=NNC(=C1)C | C20H24N4O3
